* PEX produced on Sun Aug 30 02:18:59 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from sparx_powdet_sbd_pex.ext - technology: ihp-sg13g2

.subckt sparx_powdet_sbd_pex vout vref vdd rfin vss
X0 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X1 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X2 vout dw_8122_4047# vss.t1 vss.t8 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X3 vdd vss.t1 cap_cmim l=10u w=10u
X4 vdd vss.t1 cap_cmim l=10u w=10u
X5 vss.t1 dw_8122_4047# vout vss.t15 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X6 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X7 vdd vdd vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=43.4451p ps=0.26832m w=5u l=0.13u
X8 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X9 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X10 vss.t1 dw_8122_4047# vout vss.t13 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X11 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X12 vdd vss.t1 cap_cmim l=10u w=10u
X13 vdd vss.t1 cap_cmim l=10u w=10u
X14 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X15 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X16 vout dw_8122_4047# vss.t1 vss.t22 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X17 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X18 vdd dw_9390_4047# vref vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X19 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X20 vss.t1 dw_8122_4047# vout vss.t3 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X21 vout dw_8122_4047# vss.t1 vss.t12 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X22 vdd vss.t1 cap_cmim l=9u w=6.8u
X23 vdd vss.t1 cap_cmim l=10u w=10u
X24 vdd vss.t1 cap_cmim l=10u w=10u
X25 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X26 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X27 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X28 vss.t1 dw_8122_4047# vout vss.t19 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X29 vout dw_8122_4047# vss.t1 vss.t10 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X30 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X31 vdd vss.t1 cap_cmim l=10u w=10u
X32 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X33 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X34 vss.t1 dw_8122_4047# vout vss.t17 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X35 vdd vss.t1 cap_cmim l=10u w=10u
X36 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X37 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X38 rfin a_8232_4131# cap_cmim l=10u w=10u
X39 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X40 vdd vss.t1 cap_cmim l=10u w=10u
X41 a_8474_2725# vdd vss.t28 rhigh l=2u w=0.5u
X42 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X43 a_8232_4131# dw_8122_4047# vss schottky_nbl1 l=1.2u w=2.655u
X44 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X45 vss.t1 dw_8122_4047# vout vss.t7 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X46 vdd vss.t1 cap_cmim l=10u w=10u
X47 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X48 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X49 vout dw_8122_4047# vss.t1 vss.t14 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X50 vss.t1 dw_8122_4047# vout vss.t5 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X51 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X52 a_9398_3295# a_8474_2725# vss.t59 rsil l=2.5u w=0.5u
X53 vref dw_9390_4047# vss.t1 vss.t2 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X54 vdd vss.t1 cap_cmim l=10u w=10u
X55 vss.t1 dw_8122_4047# vout vss.t21 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X56 dw_9390_4047# vref vss.t23 rppd l=1.5u w=0.5u
X57 vdd vss.t1 cap_cmim l=10u w=10u
X58 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X59 vdd vss.t1 cap_cmim l=10u w=10u
X60 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X61 vss.t1 vss.t1 vss.t1 vss.t24 sg13_lv_nmos ad=0.85p pd=5.68u as=0 ps=0 w=2.5u l=0.13u
X62 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X63 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X64 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X65 vss.t1 dw_8122_4047# vout vss.t11 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X66 vdd vss.t1 cap_cmim l=10u w=10u
X67 vout dw_8122_4047# vss.t23 rppd l=1.5u w=0.5u
X68 vdd vss.t1 cap_cmim l=10u w=10u
X69 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X70 vdd vss.t1 cap_cmim l=10u w=10u
X71 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X72 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X73 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X74 vss.t1 dw_8122_4047# vout vss.t9 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X75 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X76 vdd vss.t1 cap_cmim l=10u w=10u
X77 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X78 vout dw_8122_4047# vss.t1 vss.t16 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X79 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X80 vdd vss.t1 cap_cmim l=10u w=10u
X81 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X82 vdd vss.t1 cap_cmim l=10u w=10u
X83 vss.t1 vss.t1 vss.t1 vss.t26 sg13_lv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.13u
X84 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X85 vdd vss.t1 cap_cmim l=9u w=6.8u
X86 vout dw_8122_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X87 vdd vss.t1 cap_cmim l=10u w=10u
X88 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X89 vout dw_8122_4047# vss.t1 vss.t6 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X90 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X91 vref dw_9390_4047# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X92 vout dw_8122_4047# vss.t1 vss.t4 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X93 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X94 vdd vss.t1 cap_cmim l=10u w=10u
X95 vdd vss.t1 cap_cmim l=10u w=10u
X96 vdd vss.t1 cap_cmim l=10u w=10u
X97 vdd vss.t1 cap_cmim l=10u w=10u
X98 vss.t1 dw_9390_4047# vref vss.t0 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X99 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X100 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X101 vout dw_8122_4047# vss.t1 vss.t20 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X102 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X103 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X104 vdd vss.t1 cap_cmim l=10u w=10u
X105 vdd vdd vdd vdd sg13_lv_pmos ad=1.7p pd=10.68u as=0 ps=0 w=5u l=0.13u
X106 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X107 vdd vss.t1 cap_cmim l=10u w=10u
X108 vdd vss.t1 cap_cmim l=10u w=10u
X109 vout dw_8122_4047# vss.t1 vss.t18 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X110 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X111 a_8232_4131# a_8474_2725# vss.t90 rsil l=2.5u w=0.5u
X112 a_9398_3295# dw_9390_4047# vss schottky_nbl1 l=1.2u w=2.655u
X113 a_8474_2725# vss.t1 cap_cmim l=10u w=10u
X114 vdd vss.t1 cap_cmim l=10u w=10u
X115 vdd dw_8122_4047# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
R0 vss.n30 vss.n0 15039.9
R1 vss.t1 vss.n31 5244.95
R2 vss.n30 vss.t59 5004.79
R3 vss.n31 vss.n30 3732.56
R4 vss.n27 vss.t28 2101.74
R5 vss.n31 vss.t28 1178.78
R6 vss.n27 vss.t1 817.216
R7 vss.n28 vss.n27 735.946
R8 vss.n2 vss.t90 554.841
R9 vss.t90 vss.n29 304.267
R10 vss.t59 vss.n3 305.664
R11 vss.n29 vss.n3 117.159
R12 vss.t0 vss.t2 30.5029
R13 vss.t26 vss.n5 7.01089
R14 vss.n4 vss.t24 7.01153
R15 vss.t22 vss.n10 17.644
R16 vss.n18 vss.t20 17.644
R17 vss.n12 vss.t18 17.644
R18 vss.n19 vss.t16 17.644
R19 vss.t14 vss.n13 17.644
R20 vss.t9 vss.n15 17.644
R21 vss.t7 vss.n23 17.644
R22 vss.t5 vss.n16 17.644
R23 vss.t3 vss.n25 17.644
R24 vss.t23 vss.t11 14.6536
R25 vss.n10 vss.t21 12.8594
R26 vss.n18 vss.t19 12.8594
R27 vss.n12 vss.t17 12.8594
R28 vss.t15 vss.n19 12.8594
R29 vss.n13 vss.t13 12.8594
R30 vss.n21 vss.t12 12.8594
R31 vss.n15 vss.t10 12.8594
R32 vss.n23 vss.t8 12.8594
R33 vss.t6 vss.n16 12.8594
R34 vss.n25 vss.t4 12.8594
R35 vss.t12 vss.n14 12.1076
R36 vss.n24 vss.t6 12.1076
R37 vss.t4 vss.n17 12.1076
R38 vss.t13 vss.n7 12.1071
R39 vss.n20 vss.t15 12.1071
R40 vss.t17 vss.n8 12.1071
R41 vss.t19 vss.n11 12.1071
R42 vss.t21 vss.n9 12.1071
R43 vss.t22 vss.n5 8.0261
R44 vss.t10 vss.n6 12.1071
R45 vss.t8 vss.n22 12.1071
R46 vss.n1 vss.n28 8.501
R47 vss.t1 vss.n25 8.5005
R48 vss.t1 vss.n23 8.5005
R49 vss.t1 vss.n21 8.5005
R50 vss.t1 vss.n19 8.5005
R51 vss.t1 vss.n18 8.5005
R52 vss.t1 vss.n10 8.5005
R53 vss.t1 vss.n12 8.5005
R54 vss.t1 vss.n13 8.5005
R55 vss.t1 vss.n15 8.5005
R56 vss.t1 vss.n16 8.5005
R57 vss.t20 vss.n9 7.32294
R58 vss.t16 vss.n8 7.32294
R59 vss.n20 vss.t14 7.32294
R60 vss.t2 vss.n7 7.32294
R61 vss.t11 vss.n6 7.32294
R62 vss.n22 vss.t9 7.32294
R63 vss.t18 vss.n11 7.32294
R64 vss.n4 vss.t3 8.02554
R65 vss.n17 vss.t5 7.32242
R66 vss.n24 vss.t7 7.32242
R67 vss.n14 vss.t0 7.32242
R68 vss.n29 vss.n1 5.6686
R69 vss.n3 vss.n0 4.15346
R70 vss.n28 vss.n26 4.75145
R71 vss.n2 vss.n26 12.7724
R72 vss.n21 vss.t23 2.99093
R73 vss.t1 vss.n4 1.12201
R74 vss.t1 vss.n24 1.93648
R75 vss.t1 vss.n22 1.93648
R76 vss.t1 vss.n6 1.93648
R77 vss.t1 vss.n7 1.93648
R78 vss.t1 vss.n20 1.93648
R79 vss.t1 vss.n8 1.93648
R80 vss.t1 vss.n9 1.93648
R81 vss.t1 vss.n11 1.93648
R82 vss.t1 vss.n14 1.93648
R83 vss.t1 vss.n17 1.93648
R84 vss.n0 vss.n26 1.87635
R85 vss.n2 vss.n1 0.00470578
R86 vss.t1 vss.n5 1.12196
R87 vss.n1 vss.n0 1.08483
R88 vss vss.n0 0.0005
C0 vdd a_8474_2725# 2.76819f
C1 dw_9390_4047# a_8474_2725# 0.05717f
C2 vdd dw_9390_4047# 0.68855f
C3 a_8232_4131# a_8474_2795# 0.05211f
C4 vout dw_8122_4047# 3.93716f
C5 rfin dw_8122_4047# 0.07528f
C6 a_8232_4131# a_9398_3295# 0.15371f
C7 a_9776_11692# dw_8122_4047# 0.03656f
C8 a_9398_2795# a_9398_3295# 0.02622f
C9 a_8474_2795# a_8474_2725# 0.02075f
C10 a_8232_4131# rfin 1.20466f
C11 vref vout 2.0311f
C12 a_9398_3295# a_8474_2725# 0.02051f
C13 vout a_8474_2725# 1.11736f
C14 dw_9390_4047# a_9398_3295# 0.39405f
C15 vdd vout 18.8274f
C16 rfin a_8474_2725# 0.0265f
C17 dw_9390_4047# vout 0.21066f
C18 vdd a_9776_11692# 0.0126f
C19 dw_9390_4047# rfin 0.0415f
C20 a_8232_4131# dw_8122_4047# 0.89997f
C21 vref dw_8122_4047# 0.6228f
C22 a_8232_4131# a_9398_2795# 0.01213f
C23 dw_8122_4047# a_8474_2725# 0.11747f
C24 vdd dw_8122_4047# 5.72604f
C25 vref a_9396_11692# 0.04195f
C26 dw_9390_4047# dw_8122_4047# 1.66491f
C27 rfin a_9398_3295# 0.05178f
C28 a_8232_4131# a_8474_2725# 0.06078f
C29 a_8232_4131# dw_9390_4047# 0.10207f
C30 vout a_9776_11692# 0.03993f
C31 a_9398_2795# a_8474_2725# 0.02416f
C32 dw_9390_4047# a_9396_11692# 0.03627f
C33 vref a_8474_2725# 0.19179f
C34 a_12042_5786# a_8474_2725# 0.01902f
C35 vdd vref 1.27003f
C36 vdd a_12042_5786# 0.0653f
C37 dw_9390_4047# vref 0.59869f
C38 vref vss 6.37055f
C39 vout vss 33.4375f
C40 a_8232_4131# vss 0.1611f
C41 dw_9390_4047# vss 0.90928f
C42 vss.t1 vss 0.20708f
.ends

